US06297239B1
Step B: Preparation of 4-[5-(2-Amino-ethyl)-imidazol-1-ylmethyl]-2-fluoro-benzonitrile Dihydrochloride
A solution of {2-[3-(4-cyano-3-fluoro-benzyl)-3H-imidazol-4-yl]-ethyl}-carbamic acid tert-butyl ester (1.0 g, 0.0029 mmol) in EtOAc (30 mL) was cooled to −20° C. and saturated with HCl gas. The cooling bath was removed and the reaction was stirred for 2 hr. The solvent was removed in vacuo to obtain the title compound which was used without further purification.

reactant | {2-[3-(4-cyano-3-fluoro-benzyl)-3H-imidazol-4-yl]-ethyl}-carbamic acid tert-butyl ester | 0.0029 mmol, 1.0 g | C(C)(C)(C)OC(NCCC=1N(C=NC1)CC1=CC(=C(C=C1)C#N)F)=O | C18H21FN4O2
reactant | HCl | Cl | ClH
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 4-[5-(2-Amino-ethyl)-imidazol-1-ylmethyl]-2-fluoro-benzonitrile Dihydrochloride | Cl.Cl.NCCC1=CN=CN1CC1=CC(=C(C#N)C=C1)F | InChI=1S/C13H13FN4.2ClH/c14-13-5-10(1-2-11(13)6-16)8-18-9-17-7-12(18)3-4-15;;/h1-2,5,7,9H,3-4,8,15H2;2*1H
